data/oMe_Silver.jsonl
{"reaction_id": "NR-137_1-C_2-C(C)(C)C_3-C(C)(C)C_4-c1ccccc1","name": "Maitland-Japp Reaction","level": "medium","reactants_smiles": ["C(C)C(=O)C(C(C)(C)C)","O=CC(C(C)(C)C)"],"products_smiles": ["C1(C(C)(C)C)OC(c1ccccc1)C(C(C)(C)C)C(=O)C1(C)"],"conditions": "Acid","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C(C)(C)C)C(=O)C(=C(C(C)(C)C))(C)","rationale": "Acid catalysis increases carbonyl electrophilicity, enabling enol or enolate attack on the aldehyde to form the conjugated α,β-unsaturated system stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(C)(C)C)=C(C)C(=O)C(C(C)(C)C)C(O)(c1ccccc1)","rationale": "The activated alkene undergoes nucleophilic addition from a hydroxyl group, favored by conjugation breaking and formation of a stabilized carbocation intermediate under acidic conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)(C)C)=C(C)C(=[OH+])C(C(C)(C)C)C(O)(c1ccccc1)","rationale": "Protonation of the carbonyl oxygen increases electrophilicity, preparing the intermediate for subsequent intramolecular nucleophilic attack."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C)(C)C)C(C)=C(O)C(C(C)(C)C)C(c1ccccc1)[OH+]1","rationale": "Intramolecular nucleophilic addition is favored entropically and electronically, as the nearby hydroxyl oxygen attacks the protonated carbonyl to form a cyclic oxonium ion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)(C)C)C(C)=C(O)C(C(C)(C)C)C(c1ccccc1)O1","rationale": "Deprotonation of the oxonium ion restores neutrality, stabilizing the newly formed heterocyclic ring."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)(C)C)OC(c1ccccc1)C(C(C)(C)C)C(=O)C1(C)","rationale": "Proton transfer rearranges the oxygen protonation state, yielding the thermodynamically stable cyclic ether with a carbonyl group."}],"description": "Under acidic conditions, the carbonyl compound and aldehyde undergo condensation to form an α,β-unsaturated intermediate, which then participates in intramolecular nucleophilic addition and cyclization. Proton transfers facilitate ring closure and rearrangement to yield the stable cyclic product."}
{"reaction_id": "NR-314_1-C_2-CCCC(C)C_3-C(C)(C)C_4-CCCC(C)C","level": "medium","name": "Upjohn Dihydroxylation","reactants_smiles": ["C(C)(CCCC(C)C)=C(C(C)(C)C)(CCCC(C)C)","C[N+]1(CCOCC1)[O-]"],"products_smiles": ["C(O)(C)(CCCC(C)C)C(O)(C(C)(C)C)(CCCC(C)C)"],"conditions": "cat. OsO4, NMO, H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C)(CCCC(C)C)O[Os](=O)(=O)OC1(C(C)(C)C)(CCCC(C)C)","step_weight": 0,"rationale": "The alkene’s π electrons coordinate to electrophilic Os(VIII) in OsO4, forming a cyclic osmate ester via concerted [3+2] cycloaddition, favored by strong osmium–oxygen π-acceptor interactions and minimal steric hindrance in the transition state."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O)(C)(CCCC(C)C)C(O)(C(C)(C)C)(CCCC(C)C)","step_weight": 0,"rationale": "Water attacks the electrophilic osmium-bound carbons, cleaving the Os–O–C bonds; the good leaving ability of the osmium species and relief of ring strain drive formation of the cis-diol."},{"step": 3,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "O=[Os](=O)(=O)=O","step_weight": 0,"rationale": "NMO oxidizes Os(VI) back to Os(VIII) via single-electron transfer, driven by N–O bond cleavage and the high thermodynamic stability of the reoxidized osmium species, allowing catalytic turnover."}],"description": "The alkene undergoes syn-dihydroxylation via OsO4-mediated [3+2] cycloaddition to form a cyclic osmate ester. Hydrolysis releases the cis-diol, and NMO reoxidizes Os(VI) to Os(VIII), enabling catalytic turnover under mild aqueous conditions."}
